Push-Pull Amplifier
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 4:15:41 PM

*Schematic Netlist:
C1 IN A 1.26uF
Q1 VCC B1 OUT 2N2219A
Q2 VSS B2 OUT 2N2905A
R1 VCC B1 16k
R2 B1 A 1k
R3 A B2 1k
R4 B2 VSS 16k
RL OUT 0 50
V1 IN 0 DC 0 SIN(0 1 10k 0 0 0) AC 1 0
VCC VCC 0 +12V
VSS VSS 0 -12V

.SAVE 0 A B1 B2 IN OUT VCC VSS V1#branch VCC#branch VSS#branch @V1[z] @VCC[z]
.SAVE @VSS[z]

*PLOT TRAN -1 1 A=IN A=OUT

*Selected Circuit Analyses:
.TRAN 2E-6 0.0005 0 2E-6

*Models and Subcircuit:
.MODEL 2N2219A NPN(IKR=0.285 RB=1.53 RE=0.383 RC=0.153 CJE=2.41E-11 VJE=1.1
+ MJE=0.5 TF=4.54E-10 CJC=2.02E-11 VJC=0.3 MJC=0.3 TR=3.15E-7 XTB=1.5 )

.MODEL 2N2905A PNP(IS=6.09E-14 BF=130 VAF=139 IKF=0.36 ISE=4.68E-11 NE=2 BR=4
+ VAR=20 IKR=0.54 RB=0.343 RE=0.0858 RC=0.0343 CJE=2.76E-11 VJE=1.1 MJE=0.5
+ TF=5.3E-10 CJC=1.65E-11 VJC=0.3 MJC=0.3 TR=9.35E-8 XTB=1.5 )

.END
